US04904674
3-[2-(5-Methyl-2-thienyl)ethenyl]benzo[b]thiophene
To a chilled (-70° C.), stirred solution of 3-[2-(5-bromo-2-thienyl)ethenyl]-benzo[b]thiophene (5.00 g) and ether (250 ml) was added n-butyllithium (6.8 ml of a 2.5M solution in hexanes), under nitrogen, over 2 mins. The mixture was stirred and chilled for 1.5 hrs. Methyl iodide (8.83 g) was added, and the mixture was allowed to warm to ambient temperature, with stirring, overnight. Water (200 ml) was added. The mixture was agitated, and the organic phase was separated. The organic phase was washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by high performance liquid chromatography (silica gel, eluted with 10% dichloromethane in hexane). The appropriate fractions were combined and evaporated to yield 3.53 g (88%) of product, mp 62°-64° C.

reactant | 3-[2-(5-bromo-2-thienyl)ethenyl]-benzo[b]thiophene | 5.00 g | BrC1=CC=C(S1)C=CC=1C2=C(SC1)C=CC=C2 | C14H9BrS2
reactant | ether | 250 ml | CCOCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | Methyl iodide | 8.83 g | CI | CH3I
solvent | Water | 200 ml | O | H2O
product | 3-[2-(5-Methyl-2-thienyl)ethenyl]benzo[b]thiophene | 3.53 g, 88% | CC1=CC=C(S1)C=CC=1C2=C(SC1)C=CC=C2 | C15H12S2
